US05780483
Synthesis of N-(2-hydroxy 4-nitro phenyl) N'-(2,3-dichloro phenyl)urea
The urea was prepared from 2-hydroxy 4-nitro aniline(308 mg, 2 mmol) and 2,3-dichloro phenyl isocyanate(2 mmol) by general Method B. It was purified by dilution with methylene chloride and precipitation with hexane. Filtering afforded the title compound(0.5 g, 73%). EI-MS m/z 342(M+H)+

reactant | 2-hydroxy 4-nitro aniline | 2 mmol, 308 mg | OC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H6N2O3
reactant | 2,3-dichloro phenyl isocyanate | 2 mmol | ClC1=C(C=CC=C1Cl)N=C=O | C7H3Cl2NO
product | N-(2-hydroxy 4-nitro phenyl) N'-(2,3-dichloro phenyl)urea | 0.5 g, 73% | OC1=C(C=CC(=C1)[N+](=O)[O-])NC(=O)NC1=C(C(=CC=C1)Cl)Cl | C13H9Cl2N3O4
